US03994968
A stirred solution of 2-methoxynaphthalene (5 g.) in acetic acid (100 ml.) is treated dropwise with a solution of 1.1 molar equivalents of bromine in acetic acid (50 ml.). Upon disappearance of the bromine color, water is added. The solid which forms is collected by filtration, washed with water until neutral, recrystallized, rewashed, and dried to yield 1-bromo-2-methoxynaphthalene.

reactant | 2-methoxynaphthalene | 5 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | bromine | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-bromo-2-methoxynaphthalene | BrC1=C(C=CC2=CC=CC=C12)OC | C11H9BrO
